US04374773
43.6 g (0.12 mol) of 6-(o-fluorophenyl)-1,4,4-trimethyl-8-nitro-4H-s-triazolo[4,3-a][1,4]benzodiazepine in 600 ml of concentrated hydrochloric acid are treated portionwise with a total of 80.55 g (0.36 mol) of tin chloride in such a manner that the temperature of the mixture does not exceed 85° C. Subsequently, the mixture is stirred at room temperature for 1 hour, cooled to 0° C. and cautiously neutralised with 900 ml of 10 N sodium hydroxide. After extracting the remaining suspension three times with methylene chloride, the combined organic phases are washed with saturated sodium chloride solution, dried and evaporated. Recrystallisation of the residue from 350 ml of ethanol at -30° C. gives 8-amino-6-(o-fluorophenyl)-1,4,4-trimethyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine of melting point 294° C.

reactant | 6-(o-fluorophenyl)-1,4,4-trimethyl-8-nitro-4H-s-triazolo[4,3-a][1,4]benzodiazepine | 0.12 mol, 43.6 g | FC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(C=C3)[N+](=O)[O-])C(=NN2)C)(C)C | C19H16FN5O2
reactant | tin chloride | 0.36 mol, 80.55 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | sodium hydroxide | 10 N, 900 ml | [OH-].[Na+]
solvent | hydrochloric acid | 600 ml | Cl | ClH
product | 8-amino-6-(o-fluorophenyl)-1,4,4-trimethyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | NC=1C=CC2=C(C(=NC(C=3N2C(=NN3)C)(C)C)C3=C(C=CC=C3)F)C1 | C19H18FN5
